US07589214B2
tert-Butyl 3-oxo-3-(4-phenoxyphenyl)propanoate
nButyllithium (2.5 M, 7.9 ml, 19.76 mmol) was added at −20° C. to a solution of di-iso-propylamine (3.29 ml, 23.24 mmol) in tetrahydrofuran (40 ml). The reaction mixture was stirred for 15 minutes under nitrogen at −20° C. then the mixture was allowed to cool down to −78° C. tert-Butylacetate (2.64 ml, 19.67 mmol) was added and the mixture was stirred at −78° C. for 20 minutes. A solution of ethyl 4-phenoxybenzoate (2.17 g, 8.94 mmol) in tetrahydrofuran (5 ml) was further added to this and the resulting mixture was stirred at −78° C. for 50 minutes. A saturated solution of NH4Cl was added and the whole was extracted with EtOAc. The organics were dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with 8% Et2O in petroleum ether to afford the title compound as a colourless oil (1.53 g, 55% yield). MS (ES+) m/e=313. 1H NMR (CDCl3) δH 1.47 (9H, s), 3.88 (2H, s), 7.02 (2H, d), 7.10 (2H, d), 7.24 (1H, t), 7.43 (2H, t), 7.94 (2H, d).

reactant | di-iso-propylamine | 23.24 mmol, 3.29 ml | C(C)(C)NC(C)C | C6H15N
reactant | tert-Butylacetate | 19.67 mmol, 2.64 ml | C(C)(C)(C)OC(C)=O | C6H12O2
reactant | ethyl 4-phenoxybenzoate | 8.94 mmol, 2.17 g | O(C1=CC=CC=C1)C1=CC=C(C(=O)OCC)C=C1 | C15H14O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | tert-Butyl 3-oxo-3-(4-phenoxyphenyl)propanoate | 1.53 g, 55% yield | O=C(CC(=O)OC(C)(C)C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C19H20O4
